US06057369
To a solution containing (+)-4-benzyl-3-(4-phenylsulfanylbutanoyl)oxazolidin-2-one (2 g, 5.63 mmol) in anhydrous CH2Cl2 (30 mL) under nitrogen atmosphere at 0° C. is added di-n-butyl boron triflate (1 M in CH2Cl2, 6.6 mL, 6.59 mmol). To the resulting brown solution is added triethylamine (1 mL, 7.38 mmol). The pale yellow solution is cooled to -78° C. and a solution of 5-phenyl-1-pentanal (1 g, 6.25 mmol) in CH2Cl2 (5 mL) is added via syringe. The mixture is stirred at -78° C. for 1 hour and at 0° C. for 45 minutes then is quenched by the dropwise addition of 3:1 methanol/pH 7 phosphate buffer (40 mL) followed by 2:1 methanol/30% H2O2 (30 mL). The biphasic mixture is stirred at 0° C. for 1 hour then is combined with an identical reaction performed on 1.3 g-scale and evaporated to 50% volume in vacuo. The residue is partitioned between 5% NaHCO3 (200 mL) and diethyl ether (200 mL) and the layers are separated. The aqueous phase is extracted with diethyl ether (200 mL). The combined organic extracts are washed successively with 5% NaHCO3 (3×100 mL), 5% Na2S2O3 (3×100 mL), water (100 mL), brine (100 mL), dried over anhydrous MgSO4, filtered and concentrated to afford a yellow oil which is chromatographed on silica gel (pet-ether/EtOAc 9:1→4:1) to provide (+)-4-benzyl-3-[3-hydroxy-7-phenyl-2-(2-phenylsulfanylethyl)heptanoyl]-oxazolidin-2-one (2 g, 43%) as a colorless oil. TLC analysis [pet-ether/EtOAc, 4:1, Rf (oxazolidinone)=0.50, Rf (aldol product)=0.20]. [α]23D +7.2° (c 1.3, CHCl3). 1H NMR (300 MHz, CDCl3) δ 1.50-1.60 (m, 7H), 1.90 (m, 1H), 2.20 (m, 1H), 2.31 (d, J=3.6 Hz, 1H), 2.58 (t, J=7.5 Hz), 2.67 (dd, J=13.3, 9.9 Hz), 2.85 (m, 1H), 3.00 (m, 1H), 3.32 (dd, J=13.3, 3.4 Hz), 3.88 (m, 1H), 4.20 (m, 2H), 4.65 (m, 1H), 7.1-7.35 (m, 15H) ppm. Mass spectrum (FAB) m/z 517 (M)+.

reactant | (+)-4-benzyl-3-(4-phenylsulfanylbutanoyl)oxazolidin-2-one | 5.63 mmol, 2 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(CCCSC1=CC=CC=C1)=O | C20H21NO3S
reactant | di-n-butyl boron triflate | 6.59 mmol, 1 M, 6.6 mL | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | triethylamine | 7.38 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | 5-phenyl-1-pentanal | 6.25 mmol, 1 g | C1(=CC=CC=C1)CCCCC=O | C11H14O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (+)-4-benzyl-3-[3-hydroxy-7-phenyl-2-(2-phenylsulfanylethyl)heptanoyl]-oxazolidin-2-one | 2 g, 43% | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(C(CCCCC1=CC=CC=C1)O)CCSC1=CC=CC=C1)=O | C31H35NO4S
